US04104462
6.16 g of adenosine-5'-carboxylic acid dimethylamide were dissolved at -40° C in 60 ml of fuming nitric acid (d = 1.50). A mixture, cooled to -20° C, of 30 ml of oleum and 30 ml of nitromethane was added dropwise to this solution within 30 minutes at such a rate that the temperature did not rise above -30° C. The mixture was stirred for 45 minutes at a temperature between -30° C and -25° C and then poured on to a solution of 325 g of potassium bicarbonate in 1 liter of water. By extraction with chloroform or with chloroform containing 5% n-propanol, there was obtained practically pure 2',3'-di-O-nitroadenosine-5'-carboxylic acid dimethylamide which melted at 156.5° C (decomposition) after recrystallisation from alcohol. The yield was 5.78 g (72.7% of theory).

reactant | adenosine-5'-carboxylic acid dimethylamide | 6.16 g | CN(C(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O)C | C13H18N6O5
reactant | oleum | 30 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | nitromethane | 30 ml | [N+](=O)([O-])C | CH3NO2
reactant | potassium bicarbonate | 325 g | C([O-])(O)=O.[K+]
reactant | nitric acid | 60 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 1 liter | O | H2O
product | 2',3'-di-O-nitroadenosine-5'-carboxylic acid dimethylamide | CN(C(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O[N+](=O)[O-])O[N+](=O)[O-])O)C | C13H16N8O9
